US04959092
2.0 g of 2-(2,3-dihydro-2,2-dimethyl-7-benzofuranylmethyloxy)-5-aminopyridine was dissolved into 5 ml of pyridine, and 1.1 g of N-methoxy-N-methylcarbamoyl chloride was slowly added dropwise thereto under cooling with ice. After 2-hours' continuous stirring, pyridine was distilled off under a reduced pressure, and the residual oily matter was dissolved into 30 ml of toluene. After the mixture was subsequently washed with water, diluted hydrochloric acid and saturated sodium chloride aqueous solution, toluene was distilled off. The residue was subjected to silica gel column chromatography using ethyl acetate/n-hexane (1/1) as a developer to obtain 2.2 g of 1-[2-(2,3-dihydro-2,2-dimethyl-7-benzofuranylmethyloxy)-5-pyridyl]-3-methoxy-3-methylurea.

reactant | 2-(2,3-dihydro-2,2-dimethyl-7-benzofuranylmethyloxy)-5-aminopyridine | 2.0 g | CC1(OC2=C(C1)C=CC=C2COC2=NC=C(C=C2)N)C | C16H18N2O2
reactant | N-methoxy-N-methylcarbamoyl chloride | 1.1 g | CON(C(=O)Cl)C | C3H6ClNO2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(2,3-dihydro-2,2-dimethyl-7-benzofuranylmethyloxy)-5-pyridyl]-3-methoxy-3-methylurea | 2.2 g | CC1(OC2=C(C1)C=CC=C2COC2=NC=C(C=C2)NC(=O)N(C)OC)C | C19H23N3O4
